US06608070B1
5-Bromoacetyl-4-methyl-1,2,3-thiadiazole:
To a solution of 5-acetyl-4-methyl-1,2,3-thiadiazole (1.00 g, 7.03 mmol) in chloroform (20 ml) was added dropwise a solution of bromine (1.24 g, 7.73 mmol) in chloroform (10 ml) over 0.5 h at room temperature. The mixture was heated at reflux temperature for 2 h. After cooling to room temperature, the mixture was made basic with saturated aqueous sodium bicarbonate and extracted with dichloromethane (100 ml×2). The extracts were dried (Na2SO4) and concentrated to give 1.55 g (100%) of the title compound as a brown oil.

reactant | 5-acetyl-4-methyl-1,2,3-thiadiazole | 7.03 mmol, 1.00 g | C(C)(=O)C1=C(N=NS1)C | C5H6N2OS
reactant | bromine | 7.73 mmol, 1.24 g | BrBr | Br2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-Bromoacetyl-4-methyl-1,2,3-thiadiazole | 1.55 g, 100% | BrCC(=O)C1=C(N=NS1)C | C5H5BrN2OS
